US07790725B2
1-Benzyloxycarbonylpiperazine (6.35 g) was dissolved in acetone (40 mL) and 4-methoxyphenyl isothiocyanate (5.19 g) were added under ice-cooling. The mixture was stirred at room temperature for 2 days. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in dichloromethane (80 mL). Methyl iodide (2.7 mL) was added under ice-cooling, and the mixture was stirred at room temperature for 17 hr. The reaction solution was added to a saturated a aqueous sodium hydrogen carbonate solution, and the mixture was extracted with dichloromethane. The extract solution washed with saturated brine, dried and concentrated under reduced pressure to give 1-benzyloxycarbonyl-4-[(methylthio)(4-methoxyphenyl)iminomethyl]piperazine (12.8 g) as a brown oil.

reactant | 1-Benzyloxycarbonylpiperazine | 6.35 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 4-methoxyphenyl isothiocyanate | 5.19 g | COC1=CC=C(C=C1)N=C=S | C8H7NOS
reactant | acetone | 40 mL | CC(=O)C | C3H6O
product | 1-benzyloxycarbonyl-4-[(methylthio)(4-methoxyphenyl)iminomethyl]piperazine | 12.8 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=NC1=CC=C(C=C1)OC)SC | C21H25N3O3S
